US04849453
As pointed out above, a preferred embodiment of this invention employs a mixture of all four optical isomers of the compound of Example 7. This racemic mixture can be prepared by the method described above by reaction of dl-4-(benzoyloxy)mandelic acid with dl-1-methyl-3-(4-benzyloxyphenyl)propylamine in the presence of DCC to give racemic 1-(4-benzyloxyphenyl)-2-oxo-2-[1-methyl-3-(4-benzyloxyphenyl)propylamino]ethanol. Reduction of the latter compound and subsequent removal of the benzyl groups provides racemic 1-(4-hydroxyphenyl)-2-[1-methyl-3-(4-hydroxyphenyl)propylamino]-ethanol. This compound is more preferably prepared by the following procedure.

reactant | 4-(benzoyloxy)mandelic acid | C(C1=CC=CC=C1)(=O)OC1=CC=C(C(C(=O)O)O)C=C1 | C15H12O5
reactant | 1-methyl-3-(4-benzyloxyphenyl)propylamine | CC(CCC1=CC=C(C=C1)OCC1=CC=CC=C1)N | C17H21NO
reactant | DCC | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
product | racemic 1-(4-benzyloxyphenyl)-2-oxo-2-[1-methyl-3-(4-benzyloxyphenyl)propylamino]ethanol | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C(NC(CCC1=CC=C(C=C1)OCC1=CC=CC=C1)C)=O)O | C32H33NO4
